US06197800B1
Equimolar amounts of 0.1N NaOH are added to a suspension of 30 mg of 3-(2,1,3-benzothiadiazol-5-yl)-4-(4-cyclopentyloxy-3,5-dimethoxybenzyl)-5-hydroxy-5-(4-methoxyphenyl)-5H-furan-2-one in 1 ml of methanol and the mixture is stirred at room temperature. The solvent is removed, the residue is partitioned between water and diethyl ether, and the aqueous phase is then lyophilized. Sodium 2-(2,1,3-benzothiadiazol-5-yl)-3-(4-cyclopentyloxy-3,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-4-oxo-2-butenoate is obtained.

reactant | NaOH | 0.1N | [OH-].[Na+]
reactant | 3-(2,1,3-benzothiadiazol-5-yl)-4-(4-cyclopentyloxy-3,5-dimethoxybenzyl)-5-hydroxy-5-(4-methoxyphenyl)-5H-furan-2-one | 30 mg | N=1SN=C2C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC2CCCC2)OC)(C2=CC=C(C=C2)OC)O)=O | C31H30N2O7S
solvent | methanol | 1 ml | CO | CH4O
product | Sodium 2-(2,1,3-benzothiadiazol-5-yl)-3-(4-cyclopentyloxy-3,5-dimethoxybenzyl)-4-(4-methoxyphenyl)-4-oxo-2-butenoate | N=1SN=C2C1C=CC(=C2)C(C(=O)[O-])=C(C(=O)C2=CC=C(C=C2)OC)CC2=CC(=C(C(=C2)OC)OC2CCCC2)OC.[Na+] | InChI=1S/C31H30N2O7S.Na/c1-37-21-11-8-19(9-12-21)29(34)23(28(31(35)36)20-10-13-24-25(17-20)33-41-32-24)14-18-15-26(38-2)30(27(16-18)39-3)40-22-6-4-5-7-22;/h8-13,15-17,22H,4-7,14H2,1-3H3,(H,35,36);/q;+1/p-1
